US08426414B2
Trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid (35 mg, 0.16 mmol) was dissolved in SOCl2 (2 mL) and was heated at 65° C. for 3 hrs. Removal of SOCl2 carefully under pump and dried the residue under high vacuum for 3 hrs. To a solution of {(1S,2S)-1-[(6-cyclopropyl-naphthalen-2-ylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester (55 mg, 0.14 mmol) and triethylamine (0.084 mL, 0.6 mmol) in DCM (3 mL) at 0° C. was added freshly made trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl chloride in DCM (2 mL) slowly. The reaction mixture was then stirred at r.t. for 18 hrs. The reaction mixture was transferred to a separatory funnel containing water (20 mL). The aqueous layer was extracted with DCM (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over MgSO4, filtered and concentrated. The residue was purified by Prep HPLC to afford [(1S,2S)-1-({(6-cyclopropyl-naphthalen-2-yl)-[trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester as a solid: LC/MS (ESI) m/e 546 [(M+H)+, calcd for C33H40FN3O3 545.7].

reactant | Trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid | 0.16 mmol, 35 mg | FC=1C=CC(=NC1)[C@H]1[C@@H](C1)C(=O)O | C9H8FNO2
reactant | {(1S,2S)-1-[(6-cyclopropyl-naphthalen-2-ylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester | 0.14 mmol, 55 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CNC1=CC2=CC=C(C=C2C=C1)C1CC1)=O | C24H34N2O2
reactant | triethylamine | 0.6 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl chloride | FC=1C=CC(=NC1)[C@H]1[C@@H](C1)C(=O)Cl | C9H7ClFNO
solvent | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | [(1S,2S)-1-({(6-cyclopropyl-naphthalen-2-yl)-[trans-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)C1=CC2=CC=C(C=C2C=C1)C1CC1)=O | C33H40FN3O3
